US07223781B2
Synthesis of 4,5-bis(4-methoxyphenyl)-1H-imidazole-2-thiol (Z11)
27.23 g (0.1 mol) of p-anisoin and 10.8 g (0.15 mol) of thiourea were reacted as in example 10. The yield was 20 g.

reactant | p-anisoin | 0.1 mol, 27.23 g | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | thiourea | 0.15 mol, 10.8 g | NC(=S)N | CH4N2S
product | 4,5-bis(4-methoxyphenyl)-1H-imidazole-2-thiol | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
